US05939436
b) 1-Benzyl-4-((4-phenyl)triazol-1-yl)piperidine
To a solution of N-t butyloxycarbonyl-4-((4-phenyl)triazol-1-yl)piperidine (2.5 g) in a 1:1 mixture of diethyl ether and methanol (10 ml) was added a solution of hydrogen chloride in methanol (10 ml, ~5 mol) and the reaction mixture was stirred at room temperature for 72 hrs. The solid was filtered off and dried then redissolved in N,N-dimethylformamide (20 ml), to which was added benzyl bromide (0.4 ml, 3.4 mmol) and ethyldiisopropylamine (0.55 ml, 3.4 mmol). The reaction mixture was stirred at room temperature for 18 hrs under nitrogen, then poured into water (200 ml) and extracted with dichloromethane (3×100 ml). The combined organic layers were washed with brine (2×50 ml), dried (MgSO4), filtered and concentrated under vacuum. The residue was purified by flash silica chromatography using methanol in dichloromethane (0-4%) and ammonia (0.5%). The product obtained was redissolved in a 1:1 mixture of diethyl ether and methanol (5 ml) with hydrogen chloride in methanol (10 ml, ~5 mol). After 5 mins the solvent was removed under vacuum and the residue was recrystallized from methanol and ethyl acetate to give the required product as a white solid (85 mg). M.p 206-280° C. 1H NMR (DMSO) δ 2.11 (4H,m), 2.60 (2H,m), 2.77 (2H,m), 3.04 (2H,m), 4.52 (1H,m), 7.18-7.85 (11H,m). MS (CI) m/e 319 [MH]+. Anal. Found C, 64.90; H, 6.43; N, 15.05. C20H22N4.HCl.0.75H2O requires C, 65.21; H, 6.70; N, 15.21%.

reactant | N-t butyloxycarbonyl-4-((4-phenyl)triazol-1-yl)piperidine | 2.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=NC(=C1)C1=CC=CC=C1 | C18H24N4O2
reactant | benzyl bromide | 3.4 mmol, 0.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyldiisopropylamine | 3.4 mmol, 0.55 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | water | 200 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
solvent | hydrogen chloride | Cl | ClH
solvent | methanol | ~5 mol, 10 ml | CO | CH4O
solvent | methanol | ~5 mol, 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 1-Benzyl-4-((4-phenyl)triazol-1-yl)piperidine | 85 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1N=NC(=C1)C1=CC=CC=C1 | C20H22N4
